US04484007
7-Methoxy-3,7-dimethyl-octylmagnesium Chloride
i-Propylmagnesium chloride (0.5 mol) in tetrahydrofuran (200 ml) was treated with 7-methoxy-3,7-dimethyl-1-octene (85 g), followed by dropwise addition of a tri-isobutyl vanadate (7.0 g) in tetrahydrofuran (40 ml) at room temperature. The reaction mixture was then refluxed under nitrogen for 5 h when an aliquot showed a 72% conversion and 87% theoretical yield of the Grignard reagent.

reactant | i-Propylmagnesium chloride | 0.5 mol | C(C)(C)[Mg]Cl
reactant | 7-methoxy-3,7-dimethyl-1-octene | 85 g | COC(CCCC(C=C)C)(C)C | C11H22O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 7-Methoxy-3,7-dimethyl-octylmagnesium Chloride | COC(CCCC(CC[Mg]Cl)C)(C)C | InChI=1S/C11H23O.ClH.Mg/c1-6-10(2)8-7-9-11(3,4)12-5;;/h10H,1,6-9H2,2-5H3;1H;/q;;+1/p-1
